US07491735B2
To a solution of 1-bromo-4-(trifluoromethoxy)benzene (1.88 g, 7.80 mmol) in THF (16 mL) at −78° C. was added n-BuLi (1.9M in hexanes, 4.1 mL, 7.8 mmol), and the solution was stirred at −78° C. for 30 minutes. A solution of 4-formyl-piperidine-1-carboxylic acid tert-butyl ester (1.50 g, 7.03 mmol) in THF (2 mL) was added dropwise, and the mixture was stirred at −78° C. for 45 minutes then allowed to warm to room temperature over 1 h. Work-up and purification gave 4-[hydroxy-(4-trifluoromethoxy-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester as colourless crystals (1.75 g, 66%).

reactant | 1-bromo-4-(trifluoromethoxy)benzene | 7.80 mmol, 1.88 g | BrC1=CC=C(C=C1)OC(F)(F)F | C7H4BrF3O
reactant | n-BuLi | 7.8 mmol, 1.9M, 4.1 mL | [Li]CCCC
reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 7.03 mmol, 1.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[hydroxy-(4-trifluoromethoxy-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.75 g, 66% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)OC(F)(F)F)O | C18H24F3NO4
